US06294703B1
In the past 1,4-CHDM has been made by a process in which dimethyl terephthalate is subjected to hydrogenation using a catalyst of Ru or Pd carried on alumina to give dimethyl cyclohexanedicarboxylate, and then a side chain of the resulting ester is subjected to a hydrogenation reaction in the presence of a Cu—Zn oxide catalyst, to manufacture 1,4-CHDM, as mentioned, for example, in JP-W-8-510686. In addition, in JP-A-6-228028 is described a process for the manufacture of 1,4-CHDM where dialkyl terephthalate is subjected to hydrogenation to give dimethyl 1,4-cyclohexanedicarboxylate, and then the side chain of the product is hydrogenated using a catalyst containing Ru and Sn to manufacture 1,4-CHDM.

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
catalyst | Pd | [Pd] | Pd
product | dimethyl cyclohexanedicarboxylate | C1(CCCCC1)(C(=O)OC)C(=O)OC | C10H16O4
